US06303620B1
To a solution of 4-benzyl-4-(N′,N′-dimethylhydrazinocarbonyl)piperidine-1-carboxylic acid tert-butyl ester (0.76 g, 2.02 mmol) in methylene chloride (2 ml) at 0° C. was added trifluoroacetic acid (5 ml) and the mixture was stirred for 60 min. The mixture was quenched with ethanol (20 ml), concentrated in vacuo and stripped three times with methylene chloride to give 4-benzylpiperidine-4-carboxylic acid N′,N′-dimethylhydrazide in quantitative yield.

reactant | 4-benzyl-4-(N′,N′-dimethylhydrazinocarbonyl)piperidine-1-carboxylic acid tert-butyl ester | 2.02 mmol, 0.76 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)NN(C)C)CC1=CC=CC=C1 | C20H31N3O3
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 4-benzylpiperidine-4-carboxylic acid N′,N′-dimethylhydrazide | quantitative yield | CN(NC(=O)C1(CCNCC1)CC1=CC=CC=C1)C | C15H23N3O
